US05935973
Trifluoroacetic acid (10 ml) was added to a solution of N-[(1-tert-butoxycarbonyl-4-piperidyl)methyl]pyridine-3-carboxamide (1.56 g) in dichloromethane (25 ml) and the mixture stirred for 2 hours then the solvent was removed in vacuo. The residue was dissolved in dry acetonitrile (10 ml) and potassium carbonate (5.0 g) was added, followed by a solution of (R)-7-chloro-1,4-benzodioxan-2-ylmethyl 4-toluenesulphonate (1.7 g) in dry acetonitrile (15 ml), and the mixture was stirred and heated under reflux for 6 hours. The cooled mixture was poured into water then extracted with dichloromethane (2×100 ml). The combined extracts were washed with brine (100 ml), dried over magnesium sulphate, and the solvent removed in vacuo. The residue was purified by flash chromatography over silica eluting with a 20:1 mixture of dichloromethane and methanol. Appropriate fractions were combined and the solvent removed in vacuo to give (S)-N-{[1-(8-chloro-1,4-benzodioxan-2-ylmethyl)-4-piperidyl]methyl}pyridine-3-carboxamide (1.04 g) as a colourless solid m.p. 52-54° C. [α]D -35.3° (c=1.024, methanol).

reactant | Trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-[(1-tert-butoxycarbonyl-4-piperidyl)methyl]pyridine-3-carboxamide | 1.56 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(=O)C=1C=NC=CC1 | C17H25N3O3
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (S)-N-{[1-(8-chloro-1,4-benzodioxan-2-ylmethyl)-4-piperidyl]methyl}pyridine-3-carboxamide | 1.04 g | ClC1=CC=CC2=C1O[C@H](CO2)CN2CCC(CC2)CNC(=O)C=2C=NC=CC2 | C21H24ClN3O3
